US05418229
EXAMPLE 5 5,11-Dihydro-11-{2-[N-(4-methoxyphenethyl)-N-methylamino]acetyl}-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one
A mixture of 11-chloroacetyl-5,11-dihydro-6H-pyrido- [2,3-b][1,4]benzodiazepine-6-one (288 mg) (German patent 1,936,670), N-(4-methoxyphenethyl)methylamine (182 mg) and sodium hydrogen carbonate (92 mg) in acetonitrile (25 ml) was heated under reflux for 16 hours and evaporated. The residue was partitioned between 2M aqueous sodium hydrogen carbonate solution and dichloromethane and the organic layer washed with brine, dried over MgSO4 and evaporated. The residue was purified by chromatography on silica using dichloromethane plus 0-10% methanol as eluant. Appropriate fractions were combined and evaporated and the residue crystallised from ethyl acetate to give the title compound as a colourless solid, 216 mg (52%).

reactant | 11-chloroacetyl-5,11-dihydro-6H-pyrido- [2,3-b][1,4]benzodiazepine-6-one | 288 mg | ClCC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2 | C14H10ClN3O2
reactant | N-(4-methoxyphenethyl)methylamine | 182 mg | COC1=CC=C(CCCN)C=C1 | C10H15NO
reactant | sodium hydrogen carbonate | 92 mg | C(O)([O-])=O.[Na+]
reactant | acetonitrile | 25 ml | C(C)#N | C2H3N
product | 5,11-Dihydro-11-{2-[N-(4-methoxyphenethyl)-N-methylamino]acetyl}-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one | COC1=CC=C(CCN(C)CC(=O)N2C3=C(NC(C4=C2C=CC=C4)=O)C=CC=N3)C=C1 | C24H24N4O3
